Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None
attach
 
Pertinent Results:
Discharge Exam: 
VITALS: 24 HR Data (last updated ___ @ 940)
    Temp: 98.7 (Tm 98.7), BP: 131/82 (131-162/80-82), HR: 79
(74-79), RR: 15 (___), O2 sat: 100%, O2 delivery: Ra, Wt: 
125.6
lb/56.97 kg  
GENERAL: Alert and in no apparent distress
EYES: Right eye cloudy; left eye anicteric, pupil reactive
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally. Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation. Bowel
sounds present. No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: Cooperative, normal affect

Admission Labs: 
___ 08:35PM BLOOD WBC-11.3* RBC-3.43* Hgb-10.8* Hct-33.7* 
MCV-98 MCH-31.5 MCHC-32.0 RDW-14.2 RDWSD-50.3* Plt ___
___ 08:35PM BLOOD Neuts-53.0 ___ Monos-11.2 Eos-2.2 
Baso-1.0 Im ___ AbsNeut-5.98 AbsLymp-3.64 AbsMono-1.27* 
AbsEos-0.25 AbsBaso-0.11*
___ 08:35PM BLOOD Glucose-80 UreaN-39* Creat-2.3* Na-139 
K-9.5* Cl-104 HCO3-15* AnGap-20*
___ 11:30PM BLOOD cTropnT-0.07*
___ 11:30PM BLOOD Calcium-9.9 Phos-4.0 Mg-2.3

Discharge Labs: 
___ 06:40AM BLOOD WBC-8.2 RBC-3.02* Hgb-9.6* Hct-29.0* 
MCV-96 MCH-31.8 MCHC-33.1 RDW-12.9 RDWSD-45.2 Plt ___
___ 06:40AM BLOOD Glucose-129* UreaN-37* Creat-2.0* Na-145 
K-4.6 Cl-110* HCO3-21* AnGap-14
___ 06:40AM BLOOD Calcium-9.4 Phos-4.5 Mg-2.___ woman with history of IDDMII and HTN who presents 
with hypoglycemia.

ACUTE/ACTIVE PROBLEMS:
# IDDMII:
# Hypoglycemia: Patient presenting after hypoglycemic episode, 
now resolved. Unclear etiology, but suspect poor oral intake and 
possible incorrect administration of insulin. The patient 
reports that she and her husband have a good system for dosing 
that was working. She typically uses a pen and has no problems. 
She feels comfortable with help from her husband. Case discussed 
the patient's PCP and her A1c had been 5.1 in ___ and had been 
decreasing insulin. Had been on 4 units of long acting and ___ 
units short acting with meals. Plan to use only long acting 4 
units QHS and follow up with PCP with ___ logs. 

# Asyptomatic bacteriuria: Urinalysis in ED positive, but 
patient denies any symptoms. Given ceftriaxone in the ED, but 
will defer further antibiotics for now given lack of symptoms. 

# CKD Stage 3: Patient found to have a creatinine of 2.3 on 
admission from a baseline of 2.25 in ___.  Discharge Cr 2.0. 


# Social issues: Per prior notes as detailed in admission noted 
there was some concerns regarding controlling behaviors of 
husband. Patient denies any safety concerns to me and feels that 
she is safe. Patient was evaluated by social work who agrees 
that the patient has no concerns and feels well. No signs of 
cognitive impairment and able to articulate plan of care. 

# Abnormal EKG: Patient noted to have TWI in anterolateral 
leads, no prior for comparison. Patient is chest pain free and 
reports no recent chest pain. Trop in grey zone and trending 
down and may be related to renal function. 
- Monitor for chest pain
- Consider outpatient stress testing

# Chronic Anemia: At baseline. 

CHRONIC/STABLE PROBLEMS:
# Hypertension:
- Continued Imdur, amlodipine, metoprolol

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Montelukast 10 mg PO DAILY 
2. Albuterol Inhaler 2 PUFF IH Q4H:PRN SOB 
3. Levemir 4 Units Bedtime
Insulin SC Sliding Scale using Novology Insulin
4. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
5. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
6. amLODIPine 5 mg PO DAILY 
7. Metoprolol Succinate XL 50 mg PO DAILY 
8. Omeprazole 20 mg PO DAILY 
9. Furosemide 20 mg PO DAILY 

 
Discharge Medications:
1.  Levemir 4 Units Bedtime 
2.  Albuterol Inhaler 2 PUFF IH Q4H:PRN SOB  
3.  amLODIPine 5 mg PO DAILY  
4.  Fluticasone Propionate NASAL 1 SPRY NU DAILY  
5.  Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY  
6.  Metoprolol Succinate XL 50 mg PO DAILY  
7.  Montelukast 10 mg PO DAILY  
8.  Omeprazole 20 mg PO DAILY  
9. HELD- Furosemide 20 mg PO DAILY  This medication was held. Do 
not restart Furosemide until you follow up with your PCP or your 
___ goes up 3 lbs. 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hypoglycemia
IDDM
CKD stage 3

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms ___, 

You were admitted after being found to have low blood sugar. We 
think is because you were not eating as well and had some 
difficulty with your insulin. We discussed you insulin regimen 
with your primary care provider and have adjusted your insulin 
to only the Levimir 4 units once a day. 

Please take your medications as directed and follow up as below. 

 
Followup Instructions:
___